US04480112
This invention encompasses a method and intermediates for preparing a commercial sweetening agent, α-L-aspartyl-L-phenylalanine methyl ester. The process involves reacting L-aspartic acid with diketene to form N-acetoacetyl-L-aspartic acid which is converted to N-acetoacetyl-L-aspartic anhydride by reaction with acetic anhydride. N-acetoacetyl-L-aspartic anhydride is reacted with L-phenylalanine methyl ester to provide N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester which is converted to α-L-aspartyl-L-phenylalanine methyl ester by reaction with hydroxylamine hydrochloride.

reactant | α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
product | N-acetoacetyl-L-aspartic acid | C(CC(=O)C)(=O)N[C@@H](CC(=O)O)C(=O)O | C8H11NO6
